US06613743B2
N-(tetrahydro-3-furanyloxy)-4-methoxy-1-benzenesulfonamide.
2-(tetrahydro-3-furanyloxy)-1H-isoindole-1,3(2H)-dione (1.5 mmol, 357 mg) was combined with hydrazine (1.7 mmol, 0.053 mL) in anhydrous THF (3 mL) under nitrogen. The reaction immediately formed a white suspension and was allowed to stir at room temperature for 1 hour. The suspension was filtered directly into a flask containing 4-methoxybenzenesulfonyl chloride (1.5 mmol, 316 mg) and diisopropylethylamine (1.8 mmol, 0.320 mL) was added. After stirring at room temperature for 18 hours, the reaction was concentrated to a solid. The resulting solid was partitioned between ethyl acetate and 1N HCl, and the organic layer was separated and washed with a saturated aqueous solution of sodium bicarbonate and brine, and dried over magnesium sulfate. The crude product was concentrated to a white solid and purified by silica gel chromatography (1:1 hexanes/ethyl acetate). The purified product was then combined with ether and filtered to remove the residual phthalimide-hydrazine biproduct. The filtrate was then crystallized by adding hexanes providing 203 mg (48%) white crystals. Rf=0.2 (1:1 hexanes/ethyl acetate); H1-NMR (CDCl3): 67 7.82 (2H,d), 6.99 (2H,d), 6.85 (1H,s), 4.82-4.79 (1H,m), 3.97-3.87 (2H, m), 3.87 (3H,s), 3.83-3.70 (2H,m), 2.12-1.99 (2H,m).

reactant | 2-(tetrahydro-3-furanyloxy)-1H-isoindole-1,3(2H)-dione | 1.5 mmol, 357 mg | O1CC(CC1)ON1C(C2=CC=CC=C2C1=O)=O | C12H11NO4
reactant | hydrazine | 1.7 mmol, 0.053 mL | NN | H4N2
reactant | 4-methoxybenzenesulfonyl chloride | 1.5 mmol, 316 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | diisopropylethylamine | 1.8 mmol, 0.320 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(tetrahydro-3-furanyloxy)-4-methoxy-1-benzenesulfonamide | O1CC(CC1)ONS(=O)(=O)C1=CC=C(C=C1)OC | C11H15NO5S
